* C:\Users\user\Downloads\DraftTrained.asc
V1 N003 0 -2
D1 N004 N007 D
D2 N008 N004 D
V3 N007 0 0
V4 N008 0 0
F1 N004 0 V5 0.25
E1 N002 0 N004 0 4
V5 N001 N002 0
I1 0 N005 0
I2 0 N009 0
D3 N006 N013 D
D4 N014 N006 D
V6 N013 0 0
V7 N014 0 0
F2 N006 0 V8 0.25
E2 N010 0 N006 0 4
V8 N011 N010 0
V2 N012 0 -2
V9 N015 0 1
R1 N004 N003 10.13
R2 N004 N012 11.63
R3 N004 N015 79279.53
R4 N003 N006 16.34
R5 N012 N006 20.22
R6 N006 N015 17.14
R7 N005 N001 9.98
R8 N005 N011 83.60
R9 N001 N009 177.3
R10 N009 N011 8.73
.model D D
.lib C:\Users\user\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 10m 5m
.backanno
.end
